US09334278B2
In a 100 ml round-bottomed flask, 2-bromo-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxylic acid (1.00 g, 2.69 mmol) was dissolved in DMF (6 ml). tert-Butylamine (1.7 ml, 16.2 mmol) was added followed by HATU (1.12 g, 2.95 mmol). The yellow suspension was stirred at room temperature for 72 h then quenched with water and extracted with a mixture of diethyl ether and EtOAc. The organic layers were washed twice with water and once with brine then combined, dried over sodium sulfate, filtered and concentrated. The residue was triturated with petroleum ether to afford 989 mg (86%) of 2-bromo-N-tert-butyl-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide as an off-white powder. 1H NMR (CDCl3, 300 MHz): δ (ppm) 8.40 (s, 1H), 8.31 (s, 1H), 7.86 (s, 1H), 5.65 (s, 2H), 3.46-3.58 (m, 2H), 1.54 (s, 9H), 0.84-0.98 (m, 2H), −0.04 (s, 9H).

reactant | 2-bromo-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxylic acid | 2.69 mmol, 1.00 g | BrC=1N=C2C(=NC1)N(C=C2C(=O)O)COCC[Si](C)(C)C | C13H18BrN3O3Si
reactant | tert-Butylamine | 16.2 mmol, 1.7 ml | C(C)(C)(C)N | C4H11N
reactant | HATU | 2.95 mmol, 1.12 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
product | 2-bromo-N-tert-butyl-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 989 mg, 86% | BrC=1N=C2C(=NC1)N(C=C2C(=O)NC(C)(C)C)COCC[Si](C)(C)C | C17H27BrN4O2Si
